Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]1([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[O:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.0116731057897
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],3.21161419115
[H:11].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[O:10]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11],-1.6298560398500002
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C:9](=[C:10][H:11])[H:12].[C:5]=[C:7]([H:6])[H:8],4.1485314021800015
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8].[H:9]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],-4.62774150722
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[H:8]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8],-1.0933177403399998
[C:1]#[C:2].[O:3]=[C:4]=[C:5]([H:6])[H:7]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7],-1.01839736163
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[H:10].[H:5],2.63123065018
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.5845578131
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9].[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.67809166284
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][H:3].[O:4]=[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],2.84006557515
[O:1]=[C:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2],0.8986810819
[H:1][C:2]#[C:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.7453163933000002
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],6.187572759680001
[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11].[H:12]>>[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.60182762762
[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-1.80606136911
[H:1][C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[O:4],0.4115586043590001
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.34551347853
[H:1][O:2][C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])=[C:5]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:6][H:7],2.80282277384
[C:1].[C:2]([O:3][H:4])[C:5](=[O:6])[H:7]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[H:7],-6.09100195954
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:11][C:12]([H:13])([H:14])[H:15],1.86567008428
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6],4.04886787988
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5],2.8231030337800003
[H:1][C:8]([C:5]([C:3]#[C:2][C:10]([H:11])([H:12])[H:13])([H:6])[H:7])=[C:9][H:4]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]1[C:10]([H:11])([H:12])[H:13],-1.45233999217
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12].[H:13],4.968563255369999
[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-0.960144336091
[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4][O:5][C:6][H:7]>>[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.10802583039
[H:11].[H:1][C:2]/[C:3]([C:4]([H:5])([H:6])[O:7][H:8])=[C:9](/[H:10])[O:12][H:13]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.0523068205
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8][H:9]>>[C:2]([H:3])#[C:4][O:5][C:6]([H:7])=[C:8][H:9].[O:1],3.55244210273
